US08084481B2
2-(3-chlorobenzoyl)-N-cyclopropylhydrazinecarboxamide
Under an argon atmosphere, 430 mg (2.52 mmol) of 3-chlorobenzoic acid hydrazide are placed in 6 ml tetrahydrofuran. 209 mg (2.52 mmol) of cyclopropyl isocyanate, dissolved in 2 ml tetrahydrofuran is added dropwise and further stirred overnight at room temperature. It is concentrated and purified by stirring the residue with diethyl ether, filtration, further washing with diethyl ether and drying in vacuo. 514 mg (80% of theory) of the target compound are thus obtained.

reactant | 3-chlorobenzoic acid hydrazide | 2.52 mmol, 430 mg | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
reactant | cyclopropyl isocyanate | 2.52 mmol, 209 mg | C1(CC1)N=C=O | C4H5NO
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-(3-chlorobenzoyl)-N-cyclopropylhydrazinecarboxamide | ClC=1C=C(C(=O)NNC(=O)NC2CC2)C=CC1 | C11H12ClN3O2
